US06953852B2
To a stirred mixture containing 9.5 kg (69.8 moles) of benzofuroxan and 21.3 kg (139.9 moles) of DBU was added a solution containing 5.8 kg (138.0 moles) of cyanamide in 2.7 kg of acetonitrile while maintaining the temperature at 15-25° C. After stirring for 67 hours at 20-25° C. the reaction mixture was diluted with 48 kg of acetonitrile and cooled to 0-10° C. To the cooled mixture was added 8.5 kg (141.5 moles) of acetic acid while maintaining the temperature at 5-15° C. After stirring for 46 hours at 5-10° C., the precipitated product was collected by filtration and washed with acetonitrile (2×15 kg). The resulting solid was suspended in 20 kg of water, stirred for 40 minutes, filtered and the filter cake washed with 10 kg of water. The collected solid was resuspended in 20 kg of water, stirred for 45 minutes, filtered and the filter cake washed with 10 kg of water. The solid collected was suspended in 29 kg of water and to the suspension was added 8.7 kg (90.5 moles) of methanesulfonic acid. The mixture was stirred at 40-50° C. until dissolution was complete. The resulting solution was added to a solution containing 9.2 kg (112.2 moles) of sodium acetate in 49 kg of water and stirred at 10-25° C. for 1.5 hours. The precipitated product was collected by filtration and washed with 10 kg of water. The collected product was suspended in 20 kg of water, stirred for 55 minutes, filtered and the filter cake washed with 10 kg of water. The solid collected was resuspended in 20 kg of water, stirred for 55 minutes, filtered and the filter cake washed with 10 kg of water. The product obtained was dried to constant weight at 50-55° C. to give 4.6 kg of tirapazamine.

reactant | benzofuroxan | 69.8 moles, 9.5 kg | C1=CC2=NO[N+](=C2C=C1)[O-] | C6H4N2O2
reactant | DBU | 139.9 moles, 21.3 kg | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | cyanamide | 138.0 moles, 5.8 kg | N#CN | CH2N2
reactant | acetic acid | 141.5 moles, 8.5 kg | C(C)(=O)O | C2H4O2
reactant | methanesulfonic acid | 90.5 moles, 8.7 kg | CS(=O)(=O)O | CH4O3S
reactant | sodium acetate | 112.2 moles, 9.2 kg | C(C)(=O)[O-].[Na+]
solvent | acetonitrile | 2.7 kg | C(C)#N | C2H3N
solvent | acetonitrile | 48 kg | C(C)#N | C2H3N
solvent | water | 49 kg | O | H2O
product | tirapazamine | 4.6 kg | C=1C=CC2=C(C1)[N+](=C(N=[N+]2[O-])N)[O-] | C7H6N4O2
